US06294558B1
2-Ethyl-4-[1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate (step 5)
To a stirred solution of 2-ethyl-4-[1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenol (140 mg, 0.327 mmol) in CH2Cl2 (10 ml) was added triethylamine (40 mg, 0.392 mmol), trifluoromethanesulfonic anhydride (100 mg, 0.358 mmol), and the mixture was stirred for 3 hours. The reaction mixture was poured into water. The whole was extracted with CH2Cl2. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The compound was used for next reaction without purification.

reactant | 2-ethyl-4-[1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenol | 0.327 mmol, 140 mg | C(C)C1=C(C=CC(=C1)C1=CC(=NN1C1=CC(=C(C=C1)S(=O)(=O)C)F)C(F)(F)F)O | C19H16F4N2O3S
reactant | triethylamine | 0.392 mmol, 40 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.358 mmol, 100 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-Ethyl-4-[1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1)C1=CC(=NN1C1=CC(=C(C=C1)S(=O)(=O)C)F)C(F)(F)F)CC)(F)F | C20H15F7N2O5S2
